US07943639B2
1-(2-Chloro-4-fluoro-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride
2-Chloro-4-flourobenzenesulfonyl chloride (29.5 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (2.4 mg). LC/MS RT: 1.361 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 90%. MS: 396 (M+1)

reactant | 2-Chloro-4-flourobenzenesulfonyl chloride | 29.5 mg | ClC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-(2-Chloro-4-fluoro-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride | 2.4 mg | Cl.ClC1=C(C=CC(=C1)F)S(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2 | InChI=1S/C17H16ClFN4O2S.ClH/c18-14-11-12(19)1-2-16(14)26(24,25)23-8-4-13-15(23)3-5-21-17(13)22-9-6-20-7-10-22;/h1-5,8,11,20H,6-7,9-10H2;1H
